US04200755
Following essentially the same procedure but substituting methyl 2-hydroxy-5-[1-hydroxy-2-[4-(2-oxo-1-benzimidazolinyl)-1,2,3,6-tetrahydro-1-pyridyl]ethyl]benzoate hydrochloride for the methyl 2-hydroxy-5-[1-hydroxy-2-[4-(2-oxo-1-benzimidazolinyl)piperidino]ethyl]benzoate hydrochloride above results in the formation of 2-hydroxy-5-[1-hydroxy-2-[4-(2-oxo-1-benzimidazolinyl)-1,2,3,6-tetrahydro-1-pyridyl]ethyl]benzamide hydrochloride.

reactant | methyl 2-hydroxy-5-[1-hydroxy-2-[4-(2-oxo-1-benzimidazolinyl)-1,2,3,6-tetrahydro-1-pyridyl]ethyl]benzoate hydrochloride | Cl.OC1=C(C(=O)OC)C=C(C=C1)C(CN1CCC(=CC1)N1C(NC2=C1C=CC=C2)=O)O
reactant | methyl 2-hydroxy-5-[1-hydroxy-2-[4-(2-oxo-1-benzimidazolinyl)piperidino]ethyl]benzoate hydrochloride | Cl.OC1=C(C(=O)OC)C=C(C=C1)C(CN1CCC(CC1)N1C(NC2=C1C=CC=C2)=O)O
product | 2-hydroxy-5-[1-hydroxy-2-[4-(2-oxo-1-benzimidazolinyl)-1,2,3,6-tetrahydro-1-pyridyl]ethyl]benzamide hydrochloride | Cl.OC1=C(C(=O)N)C=C(C=C1)C(CN1CCC(=CC1)N1C(NC2=C1C=CC=C2)=O)O | InChI=1S/C21H22N4O4.ClH/c22-20(28)15-11-13(5-6-18(15)26)19(27)12-24-9-7-14(8-10-24)25-17-4-2-1-3-16(17)23-21(25)29;/h1-7,11,19,26-27H,8-10,12H2,(H2,22,28)(H,23,29);1H
